US06426345B1
A mixture of 2-bromo-3′-nitroacetophenone (3.66 g) and 3-thiocarbamoylpyridine (2.07 g) in ethanol (40 ml) was refluxed for 1 hour. The reaction mixture was poured into a mixture of ethyl acetate and an aqueous sodium bicarbonate solution. The organic phase was washed with brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give 4-(3-nitrophenyl)-2-(pyridin-3-yl)thiazole (2.91 g).

reactant | 2-bromo-3′-nitroacetophenone | 3.66 g | BrCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 3-thiocarbamoylpyridine | 2.07 g | C(N)(=S)C=1C=NC=CC1 | C6H6N2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-(3-nitrophenyl)-2-(pyridin-3-yl)thiazole | 2.91 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)C=1C=NC=CC1 | C14H9N3O2S
